US04600709
27.5 g (0.097 mol) of 4-(2-methylphenylsulphonyl)-5-methyl-1,2-benzenediol, 62.1 g (0.45 mol) of potassium carbonate and 32.7 g (0.145 mol) of dibromoacetic acid (97% strength) are reacted in 300 ml of dimethylformamide under an inert gas atmosphere in a manner analogous to that described in Example 27. After working up, purification by way of the ethyl ester and hydrolysis, in a manner entirely analogous to that described in Example 27, 5-(2-methylphenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid is obtained in the form of colourless crystals having a melting point of 178°-180° (from toluene).

reactant | 4-(2-methylphenylsulphonyl)-5-methyl-1,2-benzenediol | 0.097 mol, 27.5 g | CC1=C(C=CC=C1)S(=O)(=O)C=1C=C(C(=CC1C)O)O | C14H14O4S
reactant | potassium carbonate | 0.45 mol, 62.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromoacetic acid | 0.145 mol, 32.7 g | BrC(C(=O)O)Br | C2H2Br2O2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 5-(2-methylphenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid | CC1=C(C=CC=C1)S(=O)(=O)C1=CC2=C(OC(O2)C(=O)O)C=C1C | C16H14O6S
